US05688815
12 ml of 37% conc. HCl are poured over 1.2 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-bromo-phenyl)-methyl]-1H-pyridin-4-one and the reaction mixture is heated with stirring at 110° C. for 10 minutes. After cooling, 15 g of ice are added. With stirring and cooling in an ice bath, the reaction mixture is neutralised with sodium hydroxide solution to a pH of 6.5. 15 ml of ethyl acetate are added and stirring is carried out at room temperature for 18 hours. The resulting product is filtered off and washed with water and ethyl acetate. Recrystallisation from ethanol yields 2-[(4-bromo-phenyl)-hydroxy-methyl]-3-hydroxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one.

reactant | HCl | 12 ml | Cl | ClH
reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-bromo-phenyl)-methyl]-1H-pyridin-4-one | 1.2 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C1=CC=C(C=C1)Br)O | C21H20BrNO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(4-bromo-phenyl)-hydroxy-methyl]-3-hydroxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one | BrC1=CC=C(C=C1)C(C=1N(C=CC(C1O)=O)CCO)O | C14H14BrNO4
